### PR TITLE
[Merged by Bors] - feat: coin problem with two coins and prime ideals in ℕ 

### PR DESCRIPTION
**Pull request by alreadydone**
This is the outcome of a course project at Heidelberg University: https://matematiflo.github.io/CompAssistedMath2025/

+ If the gcd of two natural numbers `p` and `q` divides a third natural number `n`, and if `n` is at least `(p - 1) * (q - 1)`, then `n` can be represented as an `ℕ`-linear combination of `p` and `q`; in other words, one can pay the amount `n` using coins of value `p` and `q`.

+ As a consequence, the prime ideals in ℕ are 0, ⟨p⟩, and {1}ᶜ.

Co-authored-by: Adem Alp Gök @adem-goek
Co-authored-by: Emirhan Duysak @duysex
Co-authored-by: Johan Commelin @jcommelin (for `IsLocalRing ℕ`)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Ring/Int.lean [hunk 1]
```diff
@@ -51,3 +53,39 @@ lemma add_two_le_iff_lt_of_even_sub {m n : ℤ} (even : Even (n - m)) : m + 2 
   rw [add_comm]; exact le_add_iff_lt_of_dvd_sub (by decide) even.two_dvd
 
 end Int
+
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/Order/Ring/Int.lean:56]: Does this result belong to some `Int` file or to an analogue `Nat`?

File: Mathlib/Data/Nat/Prime/Defs.lean [hunk 2]
```diff
@@ -137,6 +137,17 @@ theorem prime_def_le_sqrt {p : ℕ} : Prime p ↔ 2 ≤ p ∧ ∀ m, 2 ≤ m →
           refine this km (Nat.lt_of_mul_lt_mul_right (a := m) ?_) e
           rwa [one_mul, ← e]⟩
 
+theorem prime_iff_not_exists_mul_eq {p : ℕ} :
```
Comment (AntoineChambert-Loir) [inline Mathlib/Data/Nat/Prime/Defs.lean:140]: There are several `not_prime` theorems, and I wonder whether this one shouldn't be worded similarly (`not_prime_iff_exists…`). On the other hand, this is the one you will need.

File: Mathlib/RingTheory/Ideal/NatInt.lean [hunk 3]
```diff
@@ -0,0 +1,84 @@
+/-
+Copyright (c) 2025 Junyan Xu. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Junyan Xu
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/Ideal/NatInt.lean:4]: Wouldn't you name the other authors of the PR as well?

File: Mathlib/RingTheory/Ideal/NatInt.lean [hunk 4]
```diff
@@ -0,0 +1,84 @@
...
+    (by simp [prime.coprime_iff_not_dvd.mpr (Ideal.mem_span_singleton.not.mp hqp)])
+    (Nat.lt_pow_self (show 1 < n by omega)).le
+  exact h.mem_of_pow_mem _ (eq ▸ add_mem (P.mul_mem_left _ hp) (P.mul_mem_left _ hq))
+
+theorem Ideal.map_comap_natCastRingHom_int {I : Ideal ℤ} :
+    (I.comap (Nat.castRingHom ℤ)).map (Nat.castRingHom ℤ) = I :=
+  map_comap_le.antisymm fun n hn ↦ n.sign_mul_natAbs ▸ mul_mem_left _ _ <| mem_map_of_mem _
+    (mem_comap.mpr <| show (n.natAbs : ℤ) ∈ I from n.sign_mul_self ▸ mul_mem_left _ _ hn)
+
+theorem Ideal.isPrime_int_iff {P : Ideal ℤ} :
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/Ideal/NatInt.lean:76]: I can't believe mathlib hadn't that already! ;-) 
Question: another route is possible, using the fact that `Int` is a principal ideal domain with units {±1}. Is it simpler?

File: Mathlib/RingTheory/Ideal/NatInt.lean [hunk 5]
```diff
@@ -0,0 +1,84 @@
...
+theorem Nat.coe_maximalIdeal : (maximalIdeal ℕ : Set ℕ) = {1}ᶜ := by ext; simp
+
+theorem Nat.maximalIdeal_eq_span_two_three : maximalIdeal ℕ = .span {2, 3} := by
+  refine le_antisymm (fun n h ↦ ?_) (span_le.mpr <| Set.pair_subset (by simp) (by simp))
+  obtain lt | lt := (mem_maximalIdeal_iff.mp h).lt_or_gt
+  · obtain rfl := lt_one_iff.mp lt; exact zero_mem _
+  exact mem_span_pair.mpr <|
+    exists_add_mul_eq_of_gcd_dvd_of_mul_pred_le 2 3 n (by simp) (show 2 ≤ n by omega)
+
+theorem Ideal.isPrime_nat_iff {P : Ideal ℕ} :
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/Ideal/NatInt.lean:44]: I'm amused to observe that `Nat` has Krull dimension 2.

File: Mathlib/Algebra/Order/Ring/Int.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/Algebra/Order/Ring/Int.lean:56]: Indeed, `Nat` may be a better idea. I chose this file because it has the IsStrictOrderedRing instance that I need (and the two additional imported files have comparatively few transitive imports).

File: Mathlib/Data/Nat/Prime/Defs.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/Data/Nat/Prime/Defs.lean:140]: I could add a `not_prime` version next to [Nat.not_prime_iff_exists_dvd_lt](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Prime/Basic.html#Nat.not_prime_iff_exists_dvd_lt) with `2 ≤ p` as a hypothesis ...

File: Mathlib/RingTheory/Ideal/NatInt.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Ideal/NatInt.lean:4]: This was the "bonus" part of the project which the other authors didn't choose to do ...

File: Mathlib/RingTheory/Ideal/NatInt.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Ideal/NatInt.lean:76]: Yeah it's indeed easier, and [Int.euclideanDomain](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/EuclideanDomain/Int.html#Int.euclideanDomain) only requires 192 transitive imports, contrary to my impression ([Ideal.span_singleton_prime](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Ideal/Maximal.html#Ideal.span_singleton_prime) already imports 700+):
```
import Mathlib.RingTheory.Ideal.Maximal

variable (R : Type*) [CommSemiring R] [IsPrincipalIdealRing R] [NoZeroDivisors R]
  [Nontrivial R]

theorem Ideal.isPrime_iff_of_isPrincipalIdealRing {P : Ideal R} :
    P.IsPrime ↔ P = ⊥ ∨ ∃ p, Prime p ∧ P = span {p} := by
  refine .symm ⟨?_, fun h ↦ or_iff_not_imp_left.mpr fun h0 ↦ ?_⟩
  · rintro (rfl | ⟨p, hp, rfl⟩)
    · exact bot_prime
    rwa [span_singleton_prime (by simp [hp.ne_zero])]
  · obtain ⟨p, rfl⟩ := Submodule.IsPrincipal.principal P
    exact ⟨p, (span_singleton_prime (by simp [·] at h0)).mp h, rfl⟩
```

Comment (alreadydone) [reply Mathlib/RingTheory/Ideal/NatInt.lean:76]: Oh, it's the instance [EuclideanDomain.to_principal_ideal_domain](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/PrincipalIdealDomain.html#EuclideanDomain.to_principal_ideal_domain) that increases the number of transitive imports to 960.

Comment (alreadydone) [reply Mathlib/RingTheory/Ideal/NatInt.lean:76]: So I guess I'll keep the original proof in this PR, and open another PR for the `IsPrincipalIdealRing` version.

File: Mathlib/Algebra/Order/Ring/Int.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/Algebra/Order/Ring/Int.lean:56]: It turns out Mathlib.Algebra.Order.Ring.Nat already exists but importing Mathlib.Algebra.Order.Ring.Int into it will add 10 transitive imports. Since the proof uses `IsStrictOrderedRing Int` I think it's better to keep it in this file.

File: Mathlib/RingTheory/Ideal/NatInt.lean (hunk 4 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/Ideal/NatInt.lean:76]: That's OK for me.

File: Mathlib/Algebra/Order/Ring/Int.lean (hunk 1 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Order/Ring/Int.lean:56]: I'm not sure it's worth the effort, but I'd guess you can avoid all mention of `Int` in the proof.

Comment (alreadydone) [reply Mathlib/Algebra/Order/Ring/Int.lean:56]: Well, the proof uses Bezout's identity which needs to be broken down into cases if stated in Nat ...

File: Mathlib/RingTheory/Ideal/NatInt.lean (hunk 5 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Ideal/NatInt.lean:44]: added this result

File: Mathlib/RingTheory/Ideal/NatInt.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Ideal/NatInt.lean:76]: It turns out I already imported 1000+ files from Mathlib.RingTheory.LocalRing.MaximalIdeal.Basic, so adding ~200 imports seems fine, so I included the IsPrincipalIdealRing result in this PR.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
